US07618993B2
1-[6-(2-fluoroethoxy)pyridin-3-yl]ethanamine 1H NMR (400 MHz, DMSO-d6) δ ppm 8.08 (d, J=2.26 Hz, 1 H) 7.74 (dd, J=8.53, 2.51 Hz, 1 H) 6.80 (d, J=8.53 Hz, 1 H) 4.37-4.81 (m, 4 H) 3.97 (q, J=6.53 Hz, 1 H) 1.24 (d, J=6.53 Hz, 3 H).
The title compound was synthesised according to the 2-step procedure described for the synthesis of 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine starting from 6-chloronicotinonitrile and 2,2-difluoroethanol.

reactant | 1-[6-(2,2,2-trifluoroethoxy)pyridin-3-yl]ethanamine | FC(COC1=CC=C(C=N1)C(C)N)(F)F | C9H11F3N2O
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 2,2-difluoroethanol | FC(CO)F | C2H4F2O
product | 1-[6-(2-fluoroethoxy)pyridin-3-yl]ethanamine | FCCOC1=CC=C(C=N1)C(C)N | C9H13FN2O
